US08138197B2
Production of 1′-[(3-Cyclopropyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazol-5-yl)carbonyl]-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
DMF (5 mL) and TEA (0.2 mL) were added to 3-cyclopropyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid (143 mg), 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (177 mg), EDCI (119 mg) and HOBT (90 mg), heated at 80° C. and stirred for 2 hours. This was cooled to room temperature, iced water was added to it, and its pH was adjusted at 2.5 with 1 N HCl added thereto. The formed crystal was taken out through filtration, washed with water, washed with Et2O and dried in vacuum at 70° C. to obtain the title compound as a pale brown powder. 1H-NMR (400 MHz, DMSO-d6) δ: 8.54-8.51 (1H, br m), 8.43 (1H, d, J=2.2 Hz), 8.25 (1H, dd, J=8.3, 2.2 Hz), 8.03-7.97 (1H, m), 7.88 (1H, d, J=8.3 Hz), 7.51 (1H, s), 7.36-7.27 (2H, m), 4.24-4.14 (2H, br m), 3.4-3.6 (2H, br m), 3.00 (2H, s), 2.31-2.22 (1H, m), 2.10-2.02 (2H, br m), 1.93-1.81 (2H, br m), 1.11-1.04 (4H, m). MS [M+H]+=553.

reactant | 3-cyclopropyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 143 mg | C1(CC1)C=1C2=C(N(N1)C1=NC=CC=C1)SC(=C2)C(=O)O | C14H11N3O2S
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 177 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | EDCI | 119 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 90 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1′-[(3-Cyclopropyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazol-5-yl)carbonyl]-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | C1(CC1)C=1C2=C(N(N1)C1=NC=CC=C1)SC(=C2)C(=O)N2CCC1(CC2)OC2=CC=C(C=C2C(C1)=O)C1=NN=NN1 | C28H24N8O3S
